US04788121
To a solution of 0.34 l concentrated HCl at 40° C. was added 275 parts 2-methoxy-5-methylaniline and further heated to 80° C. Then 154 parts crotonaldehyde was added dropwise, heated to 100° C. for 1 hour. The reaction was cooled to 30° C. and poured into 2.5 l ice water and neutralized with 50% NaOH. The product was filtered, washed with water, water pressed, washed with hexane and air dried to give 65% yield of 2,5-dimethyl-8-methoxyquinoline.

reactant | HCl | 0.34 l | Cl | ClH
reactant | 2-methoxy-5-methylaniline | COC1=C(N)C=C(C=C1)C | C8H11NO
reactant | crotonaldehyde | C(\C=C\C)=O | C4H6O
reactant | NaOH | [OH-].[Na+]
product | 2,5-dimethyl-8-methoxyquinoline | 65% yield | CC1=NC2=C(C=CC(=C2C=C1)C)OC | C12H13NO
